US07655657B2
3-[6-(1H-Indol-3-yl)-pyridazin-3-yloxy]-1-aza-bicyclo[2.2.2]octane
3-Quinuclidinol (Aldrich, 254 mg, 2 mmol) was coupled with 3-(6-chloropyridazin-3-yl)-1H-indole (Bionet, 458 mg, 2 mmol) at 60° C. for 16 hours according to the procedure of Example 7A. The title compound was purified by preparative HPLC (Xterra™, column, Xterra RP-18, 5 μm, 30×100 mm. Eluting Solvent, MeCN/H2O (NH4HCO3, 0.1 M, pH=10), (v. 90/10 to 10/90 over 20 min.) Flow rate, 75 mL/min., uv, 250 nm) as solid (400 mg, 63%). 1H NMR (MeOH-D4, 300 MHz) 1.50-1.64 (m, 1H), 1.71-1.93 (m, 2H), 2.00-2.15 (m, 1H), 2.29-2.36 (m, 1H), 2.78-3.04 (m, 5H), 3.43-3.55 (m, 1H), 5.24-5.32 (m, 1H), 7.12-7.25 (m, 3H), 7.42-7.48 (m, 1H), 7.87 (s, 1H), 8.01 (d, J=9.2 Hz, 1H), 8.26-8.33 (m, 1H) ppm. MS (DCI/NH3) m/z 321 (M+H)+.

reactant | 3-Quinuclidinol | 2 mmol, 254 mg | N12CC(C(CC1)CC2)O | C7H13NO
reactant | 3-(6-chloropyridazin-3-yl)-1H-indole | 2 mmol, 458 mg | ClC1=CC=C(N=N1)C1=CNC2=CC=CC=C12 | C12H8ClN3
product | 3-[6-(1H-Indol-3-yl)-pyridazin-3-yloxy]-1-aza-bicyclo[2.2.2]octane | N1C=C(C2=CC=CC=C12)C1=CC=C(N=N1)OC1CN2CCC1CC2 | C19H20N4O
